US07902401B2
2-(Dibenzylamino)-3-(difluoromethoxy)-N-benzylpropanamide (362 mg, 0.863 mmol) was stirred with 10% Pd(OH)2 (200 mg) in ethanol under H2 overnight. The reaction mixture was filtered and concentrated to give 2-amino-N-benzyl-3-(difluoromethoxy)propanamide (195 mg, 93.6%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.83 (t, 1H), 7.25-7.40 (m, 5H), 6.27 (wt, 1H), 4.49 (d, 2H), 4.19 (d, 2H) and 3.68 (m, 1H).

reactant | 2-(Dibenzylamino)-3-(difluoromethoxy)-N-benzylpropanamide | 0.863 mmol, 362 mg | C(C1=CC=CC=C1)N(C(C(=O)NCC1=CC=CC=C1)COC(F)F)CC1=CC=CC=C1 | C25H26F2N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd(OH)2 | 200 mg | [OH-].[OH-].[Pd+2]
product | 2-amino-N-benzyl-3-(difluoromethoxy)propanamide | 195 mg, 93.6% | NC(C(=O)NCC1=CC=CC=C1)COC(F)F | C11H14F2N2O2
